US04757081
To 17.8 g (0.050 mole) of 5-(2-chloroanilino)-2-methyl-1,5-diphenyl-4-pentene-1,3-dione, 200 ml of xylene and 100 g of polyphosphoric acid were added. The resultant mixture was heated under reflux for 30 minutes. After cooling the reaction mixture, the solvent was removed by decantation and the remaining solid matter was added with 200 ml of chloroform and 200 ml of water. The resultant mixture was then stirred vigorously for 2 hours. Thereafter, the organic layer was washed with water and then dried over anhydrous sodium sulfate. After removal of the sodium sulfate, the solvent was distilled off and the residue was recrystallized from acetone, thereby affording 2.8 g of 1-(2-chlorophenyl)-3-methyl-2,6-diphenyl-4(1H)-pyridinone having a melting point of 228°-231° C.

reactant | 5-(2-chloroanilino)-2-methyl-1,5-diphenyl-4-pentene-1,3-dione | 0.050 mole, 17.8 g | ClC1=C(NC(=CC(C(C(=O)C2=CC=CC=C2)C)=O)C2=CC=CC=C2)C=CC=C1 | C24H20ClNO2
solvent | xylene | 200 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 1-(2-chlorophenyl)-3-methyl-2,6-diphenyl-4(1H)-pyridinone | 2.8 g | ClC1=C(C=CC=C1)N1C(=C(C(C=C1C1=CC=CC=C1)=O)C)C1=CC=CC=C1 | C24H18ClNO
